US05882628
b. 1,3,5-Triiodo-2,4,6-triacetoxymethylbenzene
Triiodomesitylene (19.5 g, 39 mmol) was added to glacial acetic acid (200 ml) containing acetic anhydride (400 ml) and concentrated sulfuric acid (40 ml). Solid potassium permanganate (24.6 g, 156 mmol) was then added in small portions over a period of 3 h. After stirring for 16 h, the solvent was evaporated and water (200 ml) was added. The aqueous suspension was extracted with dichloromethane (250 ml) and the organic phase was washed with water (3×50 ml), dried (MgSO4) and evaporated. The solid residue was suspended in acetone and the white crystalline product was collected by filtration. Yield: 9.3 g (35%).

reactant | Triiodomesitylene | 39 mmol, 19.5 g | IC1=C(C(=C(C(=C1C)I)C)I)C | C9H9I3
reactant | acetic anhydride | 400 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | sulfuric acid | 40 ml | S(O)(O)(=O)=O | H2O4S
reactant | potassium permanganate | 156 mmol, 24.6 g | [Mn](=O)(=O)(=O)[O-].[K+]
solvent | acetic acid | 200 ml | C(C)(=O)O | C2H4O2
product | 1,3,5-Triiodo-2,4,6-triacetoxymethylbenzene | IC1=C(C(=C(C(=C1COC(C)=O)I)COC(C)=O)I)COC(C)=O | C15H15I3O6
